US05260492
SYNTHESIS OF 5,6-DICHLORO-3,3,4,4,5,6,6-HEPTAFLUORO-1-HEXENE
To a stirred solution of 1,2-dichloro-1,1,2,3,3,4,4,-heptafluoro-6-iodohexane (370.0 g) and ethanol (400 mL) was added dropwise a solution of potassium hydroxide (56.0 g), ethanol (300 mL) and water (20 mL) at 80°-90° C. over 40 minutes. After the addition was complete, the reaction mixture was refluxed for 1 hour and then poured into water. Lower layer was separated and washed with water to give desired product (233.5 g). 19F NMR: -63.9 (m, 2F), -111.9 (m, 2F), -116.2 (m, 2F), -130.5 (m, 1F); 1H NMR: 5.72 to 6.10 (m). IR: 1651 (m), 1422 (s), 1180 (s), 1055 (s), 1019 (s), 1002 (s), 980 (s).

reactant | 1,2-dichloro-1,1,2,3,3,4,4,-heptafluoro-6-iodohexane | 370.0 g | ClC(C(C(C(CCI)(F)F)(F)F)(F)Cl)(F)F | C6H4Cl2F7I
reactant | ethanol | 400 mL | C(C)O | C2H6O
reactant | potassium hydroxide | 56.0 g | [OH-].[K+]
reactant | ethanol | 300 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 20 mL | O | H2O
product | 5,6-DICHLORO-3,3,4,4,5,6,6-HEPTAFLUORO-1-HEXENE | 233.5 g | ClC(C(C(C=C)(F)F)(F)F)(C(F)(F)Cl)F | C6H3Cl2F7
